US07737166B2
Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidine-3-carboxylate (I-148)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.45 g, 1.57 mmol) was dissolved in dichloromethane (15 ml), then diisopropylethylamine (0.6 ml, 3.53 mmol) and ethyl azetidine-3-carboxylate hydrochloride (I-147) (0.55 g) were added. After heated under reflux for 3 hours, this was diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane to dichloromethane:methanol=70:1) to obtain a brown oil (0.60 g, quant).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 1.57 mmol, 0.45 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 3.53 mmol, 0.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl azetidine-3-carboxylate hydrochloride | 0.55 g | Cl.N1CC(C1)C(=O)OCC
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Ethyl 1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidine-3-carboxylate | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)C(=O)OCC)F)C2=CC=CC=C2)C | C21H18FN3O3
